US05254595
A solution of 2-amino-6-hydroxytetralin (2.6 g) and 1-naphthyloxy-2,3-epoxypropane (3.2 g) in ethanol (80 ml) is refluxed for 5 hours, and then allowed to cool to room temperature. The solvent is evaporated off under reduced pressure and the thus obtained oil is chromatographed on a silica gel column eluting first with ethyl acetate up to complete elution of the first spot, and then with a mixture ethyl acetate/reethanol 9/1 v/v up to complete elution of the product. The fractions are pooled and concentrated under reduced pressure. The residue is dissolved in isopropanol (20 ml) and a solution of fumaric acid (0.95 g) in isopropanol (10 ml) is then added thereto. The precipitate is recovered by filtration, washed with ethyl ether and dissolved in water. A concentrated sodium hydroxide solution is then added thereto up to a basic pH and the solution is extracted with ethyl acetate. The organic extract is dried over sodium sulfate and concentrated to dryness. The residue is triturated with a small amount of ethyl acetate and filtered yielding 1.9 g of N-(6-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-naphthyloxy)propanamine; m.p. 118°-120° C.

reactant | 2-amino-6-hydroxytetralin | 2.6 g | NC1CC2=CC=C(C=C2CC1)O | C10H13NO
reactant | 1-naphthyloxy-2,3-epoxypropane | 3.2 g | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(6-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-naphthyloxy)propanamine | 1.9 g | OC=1C=C2CCC(CC2=CC1)NCC(COC1=CC=CC2=CC=CC=C12)O | C23H25NO3
